US07592357B2
Step 1. 3-Chloro-6-fluoro-5-nitro-1H-indazole
6-Fluoro-5-nitroindazole (850 mg, 4.693 mmol, 1.0 equiv) was dissolved in 20 mL EtOH, NaOCl (10 mL, 164.26 mmol, 35 equiv) was added and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated en vacuo to remove EtOH was then diluted with EtOAc and water. The phases were separated, and the organic phase was washed once with satd. NaHCO3, and once with satd. NaCl. The organic phase was dried over Na2SO4, filtered, and concentrated en vacuo. The residue was purified by flash chromatography (10-100% EtOAc in Hexanes) to provide 583 mg (58%) of the title compound as a light orange solid. MS (ES+) m/e 216 [M+H]+

reactant | 6-Fluoro-5-nitroindazole | 4.693 mmol, 850 mg, 1.0 equiv | FC1=C(C=C2C=NNC2=C1)[N+](=O)[O-] | C7H4FN3O2
reactant | NaOCl | 164.26 mmol, 10 mL, 35 equiv | [O-]Cl.[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-Chloro-6-fluoro-5-nitro-1H-indazole | 583 mg, 58% | ClC1=NNC2=CC(=C(C=C12)[N+](=O)[O-])F | C7H3ClFN3O2
